US20010027196A1
To a stirred suspension of 130 mg (0.50 mmol) 2-amino-4-chloro-6-(pyridin-2-ylmethoxy)-pyrimidine-5-carbonitrile in 10 ml DME were added 0.17 ml (1.74 mmol) 2-(hydroxymethyl)pyridine and 0.11 ml (0.75 mmol) DBU and stirring continued for 1 hour at room temperature. 50 ml water was then added and the resulting crystals collected by filtration and washed with ether to afford 80 mg (48%) 2-amino-4,6-bis-(pyridin-2-ylmethoxy)-pyrimidine-5-carbonitrile as a white crystalline solid. ES-MS m/e (%): 357 (M+Na+, 40), 335 (M+H+, 100).

reactant | 2-amino-4-chloro-6-(pyridin-2-ylmethoxy)-pyrimidine-5-carbonitrile | 0.50 mmol, 130 mg | NC1=NC(=C(C(=N1)Cl)C#N)OCC1=NC=CC=C1 | C11H8ClN5O
reactant | 2-(hydroxymethyl)pyridine | 1.74 mmol, 0.17 ml | OCC1=NC=CC=C1 | C6H7NO
reactant | DBU | 0.75 mmol, 0.11 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | water | 50 ml | O | H2O
solvent | DME | 10 ml | COCCOC | C4H10O2
product | 2-amino-4,6-bis-(pyridin-2-ylmethoxy)-pyrimidine-5-carbonitrile | 80 mg, 48% | NC1=NC(=C(C(=N1)OCC1=NC=CC=C1)C#N)OCC1=NC=CC=C1 | C17H14N6O2
